US05852014
3-Methylthiazolo[3,2-a]indole-9-carboxylic Acid
3-Methyl-9-trifluoroacetylthiazolo[3,2-a]indole (370 mg, 0.0013 mole) was treated with 20% NaOH solution (15 ml) and ethanol (15 ml) and heated under reflux for 6 h. The mixture was concentrated in vacuo to half its volume and the residue acidified with 2M HCl acid and then extracted with ethyl acetate (2×30 ml). The combined extracts were dried (Na2 SO4) and concentrated in vacuo to afford the title compound (D13) as a brown solid (300 mg, 100%).

reactant | 3-Methyl-9-trifluoroacetylthiazolo[3,2-a]indole | 0.0013 mole, 370 mg | CC1=CSC=2N1C=1C=CC=CC1C2C(C(F)(F)F)=O | C13H8F3NOS
reactant | NaOH | 15 ml | [OH-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 3-Methylthiazolo[3,2-a]indole-9-carboxylic Acid | 300 mg, 100% | CC1=CSC=2N1C=1C=CC=CC1C2C(=O)O | C12H9NO2S
